### ISSUE TITLE
Duplicate instances introduced through inheritance gives confusing errors

### ISSUE THREAD

**Issue by adri326** [leanprover/lean4#2952]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

Consider the following piece of code that our user has written:

```lean
class Add' (G: Type) extends Add G

def add' {G: Type} [Add' G] (a b: G): G := a + b

variable {G: Type}
variable [Add G]

def add (a b: G): G := a + b

theorem add_eq_add [Add' G] (a b: G): add a b = add' a b := by
  simp [add, add']
  rfl
```

The class `Add'` inherits from `Add`, which means that when the theorem is being formulated, two different instances of `Add G` are added to the context: one from the `variable [Add G]`, used in the definition of `add`, and one inherited from `Add' G`, used in the definition of `add'`.

As soon as the user tries to apply the `rfl` tactic to solve the goal, they are met with an ambiguous error:

```
tactic 'rfl' failed, equality lhs
  a + b
is not definitionally equal to rhs
  a + b
G: Type
inst✝¹: Add G
inst✝: Add' G
ab: G
⊢ a + b = a + b
```

Supposing the user has already experienced issues with multiple instances of operator overloading, they go on and hover over the two version of `a + b`, to see if those might refer to different operations.
However, both print the same function used by `+`:

```
@HAdd.hAdd G G G instHAdd a b : G
```

At this point, the user has no idea that what is causing this issue are the two instances of `Add G` present in the context (one being hidden away behind `Add' G`), and that the additions are each defined on different instances of `Add G`.

To fix the error, the user should remove the `variable [Add G]` and move the instance requirement to the `def add` directly.

### Context

I was working on porting a WIP proof of Rubin's theorem from Lean3 to Lean4, and was putting theorems in different files.
Since `variable` statements aren't physically close to the theorem that uses it, I pre-emptively put a few class instances that I thought were needed afterwards, namely:

```
variable {G α β : Type _}
variable [Group G]
variable [MulAction G α] [MulAction G β]
```

However, this file also defines the following class before that:

```
class ContinuousMulAction (G α : Type _) [Group G] [TopologicalSpace α] extends
    MulAction G α where
  continuous : ∀ g : G, Continuous (fun x: α => g • x)
```

So when a theorem also had the `[ContinuousMulAction G α]` requirement, I ended up having two version of the scalar multiplication operator floating around, inevitably leading to a very confusing error.

### Steps to Reproduce

1. Have two classes `A B`, the second inheriting from the first, and the first having a method
2. Define a function `fa` requiring an instance of the first class
3. Define an equivalent function `fb` requiring an instance of the second class
4. Define a theorem that requires both an instance of `A` *and* `B`, such that an equality between `fa` and `fb` needs to be proven
5. Try to prove the theorem

**Expected behavior:**

When printing an error where two visually equal expressions are definitionally different,
Lean should give hints as to which instances of a function/operator within the expressions differ.

When doing this, Lean should also give a hint that two "conflicting" instances were present in the context, and point to how each instance relate to instance hypotheses in the current context.

**Actual behavior:**

An error stating that two visually equal expressions is given, and any inspection made by the user does not help them figure out the cause of the error.

### Versions

```
$ lean --version
Lean (version 4.3.0-rc2, commit 8e5cf6466061, Release)
$ uname -a
Linux deskryx 6.5.9-arch2-1 #1 SMP PREEMPT_DYNAMIC Thu, 26 Oct 2023 00:52:20 +0000 x86_64 GNU/Linux
```

### Additional Information

N/A

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
These days we produce the following error message:
```
tactic 'rfl' failed, the left-hand side
  @HAdd.hAdd G G G (@instHAdd G inst✝¹) a b
is not definitionally equal to the right-hand side
  @HAdd.hAdd G G G (@instHAdd G Add'.toAdd) a b
G : Type
inst✝¹ : Add G
inst✝ : Add' G
a b : G
⊢ a + b = a + b
```
That should resolve this, shouldn’t it?
